US20010014751A1
1.36 g, 5.26 mmol of 1,2-bis(2-indenyl)ethane, prepared as described in the above reported Synthesis 1(a), were dissolved in 25 mL THF and cooled to −10° C. 5.5 ml of a 1.6 M solution of BuLi in hexane (8.8 mmoles) were added and the resulting orange/brown solution was stirred for 2 hours, at room temperature. To the obtained mixture was added, by means of a cannula, a solution of 1.1 ml of EtI (7.1 mmol) in 10 ml THF, at −10° C. After 2 hours, the THF was removed under vacuum, and Et2O was added. The thus obtained ether solution was washed 3 times with a saturated solution of NaHCO3 and 3 times with a saturated aqueous solution of NaCl. After drying over MgSO4, 1.46 g of 1,2-bis(1-ethyl-2-indenyl)ethane was isolated, in the form of a yellow oil. 1H NMR and GC showed that it consisted of the three possible double bond isomers.

reactant | 1,2-bis(2-indenyl)ethane | 5.26 mmol, 1.36 g | C1C(=CC2=CC=CC=C12)CCC=1CC2=CC=CC=C2C1 | C20H18
reactant | BuLi | [Li]CCCC
reactant | hexane | 8.8 mmoles | CCCCCC | C6H14
reactant | EtI | 7.1 mmol, 1.1 ml | C(C)I | C2H5I
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1,2-bis(1-ethyl-2-indenyl)ethane | 1.46 g | C(C)C1C(=CC2=CC=CC=C12)CCC=1C(C2=CC=CC=C2C1)CC | C24H26
